### PR TITLE
[Merged by Bors] - feat: Interactive Library Rewrite

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR defines the `rw??` library rewrite tactic that uses my `RefinedDiscrTree`.

This is a point&click tactic, letting the user click on subexpressions in the main goal. The results are sorted by relevance, and are separated into sections based on the matched pattern. It comes with a filter button that allows you to switch between the (default) filtered view, with removed duplicate lemmas and not showing lemma names, and the complete view. There is also a section for definitionally unfolding the selected expression - these rewrites do not correspond to a library lemma.

---

- [x] depends on: #11968
- [x] depends on: #12016
- [x] depends on: #25955

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by fpvandoorn** [comment]
please mark as `awaiting-review` if it's ready for review

**Comment by JovanGerb** [comment]
awaiting-review

**Comment by JovanGerb** [comment]
!bench

The lazy version is not persistent, so if this bench shows that, I'll make a `StrictRefinedDiscrTree`.

**Comment by JovanGerb** [comment]
!bench

**Comment by JovanGerb** [comment]
!bench

File: Mathlib/Tactic/Widget/LibraryRewrite.lean [hunk 1]
```diff
@@ -0,0 +1,645 @@
...
+deriving BEq, Inhabited
+
+instance : ToFormat RewriteLemma where
+  format lem := f! "{if lem.symm then "← " else ""}{lem.name}"
+
+/-- Return `true` if `s` and `t` are equal up to changing the `MVarId`s. -/
+def isMVarSwap (t s : Expr) : Bool :=
+  go t s {} |>.isSome
+where
+  /-- The main loop of `isMVarSwap`. Returning `none` corresponds to a failure. -/
```
Comment (eric-wieser) [inline Mathlib/Tactic/Widget/LibraryRewrite.lean:58]: Can you explain what `some l` means here?

File: Mathlib/Tactic/Widget/LibraryRewrite.lean [hunk 2]
```diff
@@ -0,0 +1,645 @@
...
+        Pattern
+        {← pattern head.lemmaType head.symm (return <InteractiveCode fmt={← ppExprTagged ·}/>)}
+        {.text suffix}
+      </summary>
+      {renderSectionCore showNames sec.1}
+    </details>
+
+  /-- Render the list of rewrite results in one section. -/
+  renderSectionCore (showNames : Bool) (sec : Array RewriteInterface) : Html :=
+    .element "ul" #[("style", json% { "padding-left" : "30px"})] <|
```
Comment (eric-wieser) [inline Mathlib/Tactic/Widget/LibraryRewrite.lean:523]: I think you can use `<ul style={}>{... sec.map _}</ul>` or similar here.

**Comment by JovanGerb** [comment]
The notable changes I made most recently:
- printing metavariables: The metavariables created by the rewrite are printed as `?_` in the produced `rw` tactic. But in the interface, they are printed as normal (so it is `?a` if the variable is called `a` in the rewrite lemma)
- In a separate file, I added an environment extension for blacklisted imports. I tagged `Init.Omega`, `Init.Grind` and `Mathlib.Tactic`. So, `rw??` excludes lemmas from there, unless you explicitly whilelist these imports.
- I updated the lemma sorting heuristic to incorporate the string length of the replacement. However, I found that the previous heuristics were better, so this new heuristic is only a tie-breaker for the old heuristics.
- In RefinedDiscrTree, when entering implicit arguments, use the `instances` instead of `default` transparency. Reason: We don't want the lemma `Id.ext_iff` to show up on a goal `5 = 2`, even though it technically does apply (by secretly unifying `Nat` with `Id Nat`). The motivation for using `default` tranparency is that this matches the behaviour of `isDefEq` in reducible transparency. But matching `isDefEq` isn't necessarily a good thing. In lean's default DiscrTree, the transparency is always `reducible`. However, there is one place where `fun_prop` doesn't work if we don't have `instances` transparency. So using `instances` transparency is a good compromise.

**Comment by JovanGerb** [comment]
The test file is pretty big and it will have to be modified when some lemmas will be added or renamed. Do you think the test should be shortened or removed for the sake of mantainability?

**Comment by JovanGerb** [comment]
Following the developments at https://github.com/leanprover/lean4/pull/6672, I removed the "blacklisted imports" part, and instead adopted the `Lean.Name.isMetaProgramming` function. As a result, this PR now depends on the fix in #25955

File: Mathlib/Lean/Meta/RefinedDiscrTree/Lookup.lean [hunk 3]
```diff
@@ -112,6 +112,13 @@ Convert a `MatchResult` into a `Array`, with better matches at the start of the
 def MatchResult.toArray (mr : MatchResult α) : Array α :=
   mr.elts.foldr (init := #[]) fun _ a r => a.foldl (init := r) (· ++ ·)
 
+/--
+Convert a `MatchResult` into an `Array` of `Array`s. Each `Array` corresponds to one pattern.
+The better matching patterns are at the start of the array.
```
Comment (fpvandoorn) [inline Mathlib/Lean/Meta/RefinedDiscrTree/Lookup.lean]: This is about the ordering of the outer array. Are the inner arrays sorted at all?

File: Mathlib/Tactic/Widget/LibraryRewrite.lean [hunk 4]
```diff
@@ -0,0 +1,583 @@
...
+-- TODO: remove this function when bumping to v4.22.0
+/-- Return true if the name is in a namespace associated to metaprogramming. -/
+def _root_.Lean.Name.isMetaprogramming (n : Name) : Bool :=
+  let components := n.components
+  components.head? == some `Lean || (components.any fun n => n == `Tactic || n == `Linter)
+
+/-- Try adding the lemma to the `RefinedDiscrTree`. -/
+def addRewriteEntry (name : Name) (cinfo : ConstantInfo) :
+    MetaM (List (RewriteLemma × List (Key × LazyEntry))) := do
+  if name matches .str _ "injEq" | .str _ "sizeOf_spec" then return [] else
```
Comment (fpvandoorn) [inline Mathlib/Tactic/Widget/LibraryRewrite.lean]: Is it intentional that there are two "black-listed" checks on the declaration here, and two checks in the declaration `addConstToPreDiscrTree`? If so, could you add a comment somewhere about this, and if not, could you move all 4 checks together?

**Review by fpvandoorn — APPROVED** [review]
It would be nice if there were tests of the form "if you click on this subexpression, you get these suggestions", but I guess we don't have that framework.

I noticed some bugs when testing.
* Code:
```lean
example (n m : ℕ) : n + m = 0 := by 
  rw??
```
Click on `n + m` and select the fist suggestion (unfold). This gives an inaccessible name:
```lean
example (n m : ℕ) : n + m = 0 := by 
  rw [show n + m = n.add m from rfl✝]
```

* Code:
```lean
example (n m : ℕ) : n + m + 0 = m + n := by 
  rw??
```
Click on `n + m` and select the first non-unfold suggestion. This gives
```lean
example (n m : ℕ) : n + m + 0 = m + n := by 
  nth_rw 2 [Nat.add_comm n m]
```
This fails, but either of these two would have worked:
```lean
example (n m : ℕ) : n + m + 0 = m + n := by 
  nth_rw 1 [Nat.add_comm n m]
example (n m : ℕ) : n + m + 0 = m + n := by 
  nth_rw 2 [Nat.add_comm]
```
The first of these is what the tactic should have given; the counting would have to take into account the explicit arguments you're giving to the lemma.

Otherwise, LGTM

File: Mathlib/Lean/Meta/RefinedDiscrTree/Lookup.lean (hunk 3 above)
Comment (JovanGerb) [reply Mathlib/Lean/Meta/RefinedDiscrTree/Lookup.lean]: The inner arrays appear in the order in which they were inserted into the discrimination tree. I can add a comment about it.

Comment (fpvandoorn) [reply Mathlib/Lean/Meta/RefinedDiscrTree/Lookup.lean]: Yes, a brief comment would be good.

File: MathlibTest/LibraryRewrite.lean
Comment (fpvandoorn) [inline MathlibTest/LibraryRewrite.lean:1]: One more comment: these tests seem prone to break when we add a single lemma to Mathlib.

It's already better if you make a test that imports almost nothing from Mathlib, then we only break on adding new core Lean lemmas. Even better might be to axiomatize some new notion with a few (axiomatized) properties.

**Comment by JovanGerb** [comment]
In your example
```
example (n m : ℕ) : n + m + 0 = m + n := by 
  rw??
```
You found a very niche bug! The code that determines the position for `nth_rw` looks for all occurrences of `n + m` in the expression. In this case it found `n + m + 0` (!!) and `n + m`. The issue is that I forgot to wrap this in a `withReducible`. So after this fix, it will give `rw [Nat.add_comm n m]` or `rw [Nat.add_comm m n]` depending on which expression was selected.

Some considerations about how to determine the position for `nth_rw`:
- Separately computing the position for each rewrite takes a bit too long (unless we can do some java script trickery to only compute this after clicking on the suggestion)
- The current approach is to compute the position only once, independent of the rewrite lemma. Then we explicitly pass the arguments to the rewrite lemma (e.g. `Nat.add_comm n m`). Disadvantage: this doesn't work for lemmas like `and_comm` which don't have explicit arguments.
- Another approach could be to determine the positions for each pattern (i.e. each block of rewrite suggestions) separately, and then we do not pass any arguments to the rewrite lemma. Although not perfect (lemmas with the same pattern can have different type class assumptions), this would be a lot more accurate.

So a question here is: do we want `rw??` to fill in the arguments to the lemma or not?

**Comment by fpvandoorn** [comment]
Ah, interesting. I did not expect it relied on unfolding the definition of `+`.

I do not feel strongly about passing arguments or not. I have weak preference for "yes", but if the implementation is more reliably correct with "no", then that seems fine.

(Btw, I also do not care strongly about suggesting `nth_rw`, and I'm happy if it rewrites more occurrences as well. This *does* require supplying arguments, since without supplying arguments, a different position could be rewritten, and the selected positions could be ignored.)

One other option, but I don't know how feasible this is: also give implicit arguments explicit, using the named variables (e.g. `rw [and_comm (a := True) (b := False)]`). Only do this for implicit arguments that are not type-class arguments, and do not occur in the type of a later argument.

**Comment by JovanGerb** [comment]
For filtering the declarations, I rely on `LazyDiscrTree.blacklistInsertion`. It filters out most automatically generated things for inductives, but for some reason `Bla.mk.sizeOf_spec` and `Bla.mk.injEq` are the exceptions. So I should probably just write a more complete version of `LazyDiscrTree.blacklistInsertion`.

File: Mathlib/Tactic/Widget/LibraryRewrite.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Widget/LibraryRewrite.lean:463]: A bit of a late reply, but iirc I had trouble writing the `json% { "padding-left" : "30px"}` like that.

**Comment by JovanGerb** [comment]
I've reduced the import and the size of the test, so that it'll be manageable to maintain. It might also be useful to have a performance test for `rw??` (to test both the initialization of RefinedDiscrTree, and the actual `rw` search), but I'm not sure whether and in what form this should be added.

File: MathlibTest/LibraryRewrite.lean [hunk 5]
```diff
@@ -267,242 +116,99 @@ Pattern x / y
...
+  ⊢ n ≤ n
+  Nat.gcd_self_sub_right
+-/
+#guard_msgs in
+#rw?? Nat.gcd n n
 
-Pattern ∑ x ∈ s, (f x + g x)
-· ∑ x ∈ Finset.range n, x + ∑ x ∈ Finset.range n, 1
-  Finset.sum_add_distrib
+def AtZero (f : Int → Int) : Int := f 0
```
Comment (fpvandoorn) [inline MathlibTest/LibraryRewrite.lean]:
```suggestion
def atZero (f : Int → Int) : Int := f 0
```
Not at all important in tests, but it's hard to unsee.

File: Mathlib/Tactic/Widget/LibraryRewrite.lean [hunk 6]
```diff
@@ -514,14 +517,14 @@ def LibraryRewriteComponent : Component SelectInsertParams :=
...
-The suggestions are sorted by the match pattern of the rewrite lemmas.
-The results are also filtered: reflexive and duplicate rewrites, and rewrites that leave
-metavariables in the replacement expression are all filtered out. To see all suggestions,
-click on the filter button (▼) in the top right.
+`rw??` is an interactive tactic that suggests rewrites for any expression selected by the user.
+To use it, shift-click an expression in the goal or a hypothesis that you want to rewrite.
+Clicking on one of the rewrite suggestions will paste the relevant rewrite tactic into the editor.
+
+The rewrite suggestions are grouped and sorted by the pattern that the rewrite lemmas match with.
+Reflexive and duplicate rewrites are filtered out,
```
Comment (fpvandoorn) [inline Mathlib/Tactic/Widget/LibraryRewrite.lean]: The term "reflexive rewrite" is confusing. Maybe "Rewrites that don't change the goal, or duplicate the behavior of another rewrite lemma, are filtered out"

**Review by fpvandoorn — APPROVED** [review]
LGTM, just 2 tiny comments.

Thanks!

bors d+
